US07459472B2
4-Hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2(4′-methanesulfonyl-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide (49 mg) was prepared from acetic acid 3-chlorocarbonyl-4′-trifluoromethyl-biphenyl-4-yl ester (1.93 mL, 0.1 M CH2Cl2) and 2-(4′-methanesulfonyl-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride (80 mg, 0.175 mmol) and DIEA (92 μL, 0.525 mmol) using standard procedure M. The crude reaction mixture was concentrated and redissolved in THF (3 mL) and MeOH (1 mL). 1 N NaHCO3 (200 μL) and 1N Na2CO3 (50 μL) were added and the hydrolysis was followed by TLC and LCMS. Once complete, the reaction was diluted with EtOAc and the layers were separated. After extraction and drying the combined organics over MgSO4, the crude mixture was concentrated onto silica gel and purified by chromatography using 15% EtOAc in hexanes.

reactant | acetic acid 3-chlorocarbonyl-4′-trifluoromethyl-biphenyl-4-yl ester | 0.1 M, 1.93 mL | ClC(=O)C=1C=C(C=CC1OC(C)=O)C1=CC=C(C=C1)C(F)(F)F | C16H10ClF3O3
reactant | 2-(4′-methanesulfonyl-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride | 0.175 mmol, 80 mg | Cl.CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)N
reactant | DIEA | 0.525 mmol, 92 μL | CCN(C(C)C)C(C)C | C8H19N
product | 4-Hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2(4′-methanesulfonyl-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | 49 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C=1C=C(C=CC1O)C1=CC=C(C=C1)C(F)(F)F | C32H26F3N3O5S
